US07919506B2
Step B: Preparation of tert-butyl 4-((2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)(methoxy)methyl)piperidine-1-carboxylate
To a solution of tert-butyl 4-((2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)(hydroxy)methyl)piperidine-1-carboxylate (62.2 mg, 0.089 mmol) in THF at 0° C. was added sodium hydride (10.7 mg, 0.27 mmol). The mixture was stirred at room temperature for 30 minutes, cooled to 0° C. and methyl iodide (30 μL, 0.5 mmol) was added. The mixture was stirred at room temperature overnight. The reaction was quenched with methanol. Solvent was removed and the residue was purified by chromatography over 12+S Biotage silica column (eluted with 0-30% ethyl acetate in hexanes) to afford the title compound (45.9 mg, 72%). 1H NMR (400 MHz, CDCl3) δ ppm 1.09-1.16 (m, 1H) 1.17-1.29 (m, 2H) 1.43 (s, 9H) 1.58-1.69 (m, 1H) 1.84 (d, J=13.28 Hz, 1H) 2.44-2.58 (m, 2H) 3.04 (s, 3H) 4.04 (d, J=12.45 Hz, 1H) 4.11 (d, J=7.47 Hz, 1H) 4.15 (d, J=7.05 Hz, 1H) 4.20 (s, 3H) 4.68 (d, J=15.77 Hz, 1H) 4.71 (s, 2H) 4.88 (d, J=16.18 Hz, 1H) 7.36 (s, 1H) 7.50 (d, J=8.30 Hz, 1H) 7.57 (d, J=7.88 Hz, 1H) 7.65 (s, 2H) 7.78 (s, 1H). MS (ES+) Calc: 710.3, Found: 711.6 (M+1)

reactant | tert-butyl 4-((2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)(hydroxy)methyl)piperidine-1-carboxylate | 0.089 mmol, 62.2 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(C2CCN(CC2)C(=O)OC(C)(C)C)O)C=C(C1)C(F)(F)F)(F)F | C30H33F9N6O3
reactant | sodium hydride | 0.27 mmol, 10.7 mg | [H-].[Na+]
reactant | methyl iodide | 0.5 mmol, 30 μL | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl 4-((2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)(methoxy)methyl)piperidine-1-carboxylate | 45.9 mg, 72% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(C2CCN(CC2)C(=O)OC(C)(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C31H35F9N6O3
